US07304085B2
5. 4-Bromo-3-methyl-benzoic acid tert-butyl ester (Compound 54)
4-Bromo-3-methylbenzoic acid (3.5 g, 16.27 mmol) was suspended in anhydrous dichloromethane (25 mL) under argon. DMF (0.5 mL) was added and followed by addition of oxalyl chloride (1.7 mL) at room temperature. The reaction mixture was stirred at room temperature for 20 min. and oxalyl chloride (0.5 mL) was added dropwise. The mixture was then stirred at room temperature for further 2 h. Solvent was evaporated. The residue was dissolved in anhydrous THF (25 mL) and cooled in an ice-bath. A solution of potassium tert-butoxide (3.65 g, 32.52 mmol) in anhydrous THF (20 mL) was added dropwise at 0° C. The reaction mixture was stirred at room temperature for 1 h, and water (100 mL) was added. The mixture was extracted with EtOAc and organic phase was washed with brine and water, and dried over anhydrous MgSO4. After evaporation of solvent, brown oil was obtained (3.78 g, 86%). MS (ESI) 272.76 (M+H+).

reactant | 4-Bromo-3-methylbenzoic acid | 16.27 mmol, 3.5 g | BrC1=C(C=C(C(=O)O)C=C1)C | C8H7BrO2
reactant | DMF | 0.5 mL | CN(C)C=O | C3H7NO
reactant | oxalyl chloride | 1.7 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | oxalyl chloride | 0.5 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | potassium tert-butoxide | 32.52 mmol, 3.65 g | CC(C)([O-])C.[K+]
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | water | 100 mL | O | H2O
product | 4-Bromo-3-methyl-benzoic acid tert-butyl ester | C(C)(C)(C)OC(C1=CC(=C(C=C1)Br)C)=O | C12H15BrO2
